US08486967B2
e) tert-Butyl 4-(3-((3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-yl)thioureido)piperidine-1-carboxylate
To a solution of (3SR,5SR)-1-amino-3-(2-chloro-4-fluorophenyl)-5-hydroxypiperidin-2-one (0.8 g, 2.9 mmol) in dimethylacetamide (1 mL) was added 4-isothiocyanatopiperidine-1-carboxylic acid tert-butyl ester (0.8 g, 3.2 mmol, US2006/14958A1) and the reaction stirred for 2 hours at 80° C. The reaction was diluted with ethyl acetate, washed with water, brine, dried with sodium sulfate and the solvent was evaporated in vacuo. The product was triturated from dichloromethane by addition of heptane to afford the title compound as a colourless powder (1.2 g, 83%). MS ISP (m/e): 501.2 [(M+H)+].

reactant | (3SR,5SR)-1-amino-3-(2-chloro-4-fluorophenyl)-5-hydroxypiperidin-2-one | 2.9 mmol, 0.8 g | NN1C(C(CC(C1)O)C1=C(C=C(C=C1)F)Cl)=O | C11H12ClFN2O2
reactant | 4-isothiocyanatopiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N=C=S | C11H18N2O2S
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(3-((3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-yl)thioureido)piperidine-1-carboxylate | 1.2 g, 83% | ClC1=C(C=CC(=C1)F)C1C(N(CC(C1)O)NC(NC1CCN(CC1)C(=O)OC(C)(C)C)=S)=O | C22H30ClFN4O4S
